US04533731
A mixture consisting of 14.1 g of the 1-(3-diethylaminopropyl)-3-(3-diethylaminopropylamino)indazole and 4.3 g of 95% by weight sulfuric acid was stirred for 3 hours at 80° C. To the mixture was added 13 ml of water, and the pH of the mixture was adjusted to 14 with potassium hydroxide. After the mixture was washed twice with 20 ml of chloroform, water was removed under reduced pressure. To the residue were added 12.5 g of potassium hydroxide and 0.6 ml of water, and the mixture was stirred for 8 hours at 250° C. After cooling, to the mixture was added hydrochloric acid to separate crystals. The crystals were obtained by filtration and dried to give 6.28 g of 1-(3-diethylaminopropyl)-3-(3-diethylaminopropylamino)-5-hydroxyindazole having the following analytical values in a yield of 40%.

reactant | 1-(3-diethylaminopropyl)-3-(3-diethylaminopropylamino)indazole | 14.1 g | C(C)N(CCCN1N=C(C2=CC=CC=C12)NCCCN(CC)CC)CC | C21H37N5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 13 ml | O | H2O
product | 1-(3-diethylaminopropyl)-3-(3-diethylaminopropylamino)-5-hydroxyindazole | 6.28 g, yield of 40% | C(C)N(CCCN1N=C(C2=CC(=CC=C12)O)NCCCN(CC)CC)CC | C21H37N5O
